US08026257B2
(1-(tert-Butoxycarbonyl)-4-(4-fluorophenyl)piperidin-4-yl)methyl 6-chloro-2-oxo-1,3-bis((2-(trimethylsilyl)ethoxy)methyl)-2,3-dihydro-1H-benzo[d]imidazole-4-carboxylate.
To a solution of (1-(tert-butoxycarbonyl)-4-(4-fluorophenyl)piperidin-4-yl)methyl 6-chloro-2-oxo-2,3-dihydro-1H-benzo[d]imidazole-4-carboxylate (0.5 g, 0.99 mmol) and N-cyclohexyl-N-methylcyclohexanamine (0.70 mL, 3.3 mmol) in tetrahydrofuran (6.5 mL) at 0° C. was added (2-(chloromethoxy)ethyl)trimethylsilane (0.56 mL, 3.2 mmol). After 5 min, the ice bath was removed and stirring continued at room temperature for 24 h. The reaction was allowed to stir overnight. The reaction was diluted with diethyl ether, washed with water, then 1M potassium bisulfate, then water, then brine, dried over magnesium sulfate, and concentrated. Column chromatography (12%→25% ethyl acetate/n-hexane) gave 580 mg (76%) as an amorphous white foam solid. 1H-NMR (CDCl3, 500 MHz) δ 7.37 (dd, J=8.9, 5.2 Hz, 2H), 7.27 (d, J=2.1 Hz, 1H), 7.08 (m, 3H), 5.43 (s, 2H), 5.27 (s, 2H), 4.26 (s, 2H), 3.78 (m, 2H), 3.55 (t, J=8.1 Hz, 2H), 3.27 (t, J=8.1 Hz, 2H), 3.08 (m, 2H), 2.23 (m, 2H), 1.88 (m, 2H), 1.42 (s, 9H), 0.89 (t, J=8.2 Hz, 2H), 0.71 (t, J=8.1 Hz, 2H), −0.05 (s, 9H), −0.12 (s, 9H); 13C NMR (126 MHz, CDCl3) δ ppm 164.6, 161.7 (d, J=247 Hz), 154.9, 154.7, 137.1 (d, J=3.8 Hz), 131.3, 128.9 (d, J=7.7 Hz), 127.1, 125.4, 122.8, 116.9, 115.7 (d, J=20 Hz), 112.3, 79.7, 73.3, 71.9, 70.9, 66.5, 65.6, 40.6, 39.9, 32.2, 28.5, 17.8, 17.7, −1.3, ″1.4. Mass spec.: 786.00 (MNa)+.

reactant | (1-(tert-butoxycarbonyl)-4-(4-fluorophenyl)piperidin-4-yl)methyl 6-chloro-2-oxo-2,3-dihydro-1H-benzo[d]imidazole-4-carboxylate | 0.99 mmol, 0.5 g | ClC=1C=C(C2=C(NC(N2)=O)C1)C(=O)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F | C25H27ClFN3O5
reactant | N-cyclohexyl-N-methylcyclohexanamine | 3.3 mmol, 0.70 mL | C1(CCCCC1)N(C1CCCCC1)C | C13H25N
reactant | (2-(chloromethoxy)ethyl)trimethylsilane | 3.2 mmol, 0.56 mL | ClCOCC[Si](C)(C)C | C6H15ClOSi
reactant | tetrahydrofuran | 6.5 mL | O1CCCC1 | C4H8O
product | (1-(tert-Butoxycarbonyl)-4-(4-fluorophenyl)piperidin-4-yl)methyl 6-chloro-2-oxo-1,3-bis((2-(trimethylsilyl)ethoxy)methyl)-2,3-dihydro-1H-benzo[d]imidazole-4-carboxylate | ClC=1C=C(C2=C(N(C(N2COCC[Si](C)(C)C)=O)COCC[Si](C)(C)C)C1)C(=O)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F | C37H55ClFN3O7Si2
